US05112817
In 60 ml of methylene chloride was dissolved 4.5 g of 5-aminoquinoline, and 10.5 g of 3-chloropropionyl chloride and 9 g of triethylamine were then added thereto. After the liquid was allowed to stand at room temperature overnight, a 1N aqueous sodium hydroxide solution was added to the liquid, and the latter was then extracted with methylene chloride. The extract was washed twice with an aqueous sodium bicarbonate solution, was then dried, and was concentrated to obtain crystals. The latter were washed with methylene chloride, and filtered to obtain 2.2 g of 5-(3-chloropropionamido)quinoline in a crystalline state.

reactant | 5-aminoquinoline | 4.5 g | NC1=C2C=CC=NC2=CC=C1 | C9H8N2
reactant | 3-chloropropionyl chloride | 10.5 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | triethylamine | 9 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 5-(3-chloropropionamido)quinoline | 2.2 g | ClCCC(=O)NC1=C2C=CC=NC2=CC=C1 | C12H11ClN2O
